US04238506
1.27 ml. triethylamino and 0.85 ml. ethyl chloroformate are added at -10° C. to a solution of 1.12 g. 5-methylpyrazole-3-carboxylic acid in 25 ml. anhydrous tetrahydrofuran. After 15 minutes, a further 1.27 ml. triethylamine is added and then 2.57 g. ethyl β-[4-(2-aminoethyl)-phenyl]-propionate hydrochloride. The reaction mixture is stirred for 1 hour at +20° C., filtered with suction and the filtered is evaporated and the residue taken up in methylene chloride. After extraction with 2% hydrochloric acid, 2 N aqueous sodium hydroxide solution and neutralization, the solution is dried and evaporated. The crude ester thus obtained is heated under reflux for 1 hour with 0.6 g. sodium hydroxide in 30 ml. ethanol. After cooling, the precipitated sodium salt is filtered off with suction, dissolved in water and carefully acidified. The precipitate obtained is filtered off and recrystallized from 20% ethanol. There is obtained β-{4-[2-(5-methylpyrazole- 5-carboxamido)-ethyl]-phenyl}-propionic acid in a yield of 22% of theory; m.p. 202°-205° C.

reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 5-methylpyrazole-3-carboxylic acid | CC1=CC(=NN1)C(=O)O | C5H6N2O2
reactant | ethyl β-[4-(2-aminoethyl)-phenyl]-propionate hydrochloride | Cl.NCCC1=CC=C(C=C1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | β-{4-[2-(5-methylpyrazole- 5-carboxamido)-ethyl]-phenyl}-propionic acid | yield of 22% | CC1(C=CN=N1)C(=O)NCCC1=CC=C(C=C1)CCC(=O)O | C16H19N3O3
